data/mechanism_extracts/JOC/10.1021_acs.joc.3c00790.json
{"doi": "10.1021_acs.joc.3c00790", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical (or photoelectrochemical) polyfluoroalkylative cyclization of 3-aza-1,5-dienes with sodium fluoroalkanesulfinates to give 3-polyfluoroalkyl-4-pyrrolin-2-ones", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "photoredox_combined", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of CF3SO2Na (2a, Eox = 1.20 V vs Ag/AgCl) generates CF3 radical with loss of SO2; a second anodic oxidation converts the cyclized C-radical B into cation C; cathode reduces protons to H2. Under photoelectrochemical conditions, Mes-Acr+ is anodically oxidized to Mes-Acr•, whose excited state (Ered* = 1.78 V) oxidizes 2a and intermediate B.", "key_intermediates": [{"name": "trifluoromethyl radical (CF3•)", "smiles": "[CH](F)(F)F", "role": "reactive"}, {"name": "intermediate A: alpha-amido carbon radical after CF3 addition to acryloyl moiety", "smiles": null, "role": "transient"}, {"name": "intermediate B: ring-closed C-centered radical after intramolecular addition onto enaminic C=C", "smiles": null, "role": "transient"}, {"name": "intermediate C: cationic pyrrolinone after anodic oxidation of B", "smiles": null, "role": "reactive"}, {"name": "Mes-Acr• / Mes-Acr•* (photoredox mediator, excited state)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3• (+ SO2); CF3• regioselectively adds to the acryloyl alkene of the 3-aza-1,5-diene giving C-radical A, which undergoes 5-exo intramolecular addition onto the enaminic C=C to give cyclized radical B; B is oxidized at the anode (or by Mes-Acr•*) to cation C, which loses a proton to furnish the 4-pyrrolin-2-one; cathode reduces H+ to 1/2 H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction shut down (0% yield of 3a), supporting radical intermediates"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction shut down (0% yield)"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C(c1ccccc1)c1ccccc1)", "purpose": "radical_trap", "observation": "Only trace 3a; DPE-CF3 adduct 4 isolated in 86%, confirming CF3• generation"}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc([N+](=O)[O-])cc1", "purpose": "redox_probe", "observation": "Reaction suppressed (0%), implicating single-electron transfer"}, {"name": "CuCl2", "smiles": "[Cl-].[Cl-].[Cu+2]", "purpose": "redox_probe", "observation": "Reaction shut down (0%), single-electron scavenger"}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "radical_trap", "observation": "Only trace product, consistent with radical pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Electricity on/off experiments show reaction stops without current, arguing against a long radical chain. CV shows 2a (1.20 V) is oxidized preferentially over 1a (1.81 V). H2 evolution at cathode confirmed by gas detection. Photoelectrochemical variant uses Mes-Acr+/Mes-Acr• as homogeneous mediator (excited-state Ered = 1.78 V) for sensitive substrates; this is a parallel mechanism rather than an alternative for the standard reaction."}
